US07144665B2
4-Diethylamino-2-hydroxybenzaldehyde N,N-diphenylhydrazone
A solution of N,N-diphenylhydrazine hydrochloride (79.5 g, 0.36 mol, from Aldrich, Milwaukee, Wis.) in ethanol (500 ml) was slowly added to a solution of 4-diethylamino-2-hydroxybenzaldehyde (58.0 g, 0.3 mol, from Aldrich, Milwaukee, Wis.) in ethanol (500 ml) in the presence of excess sodium carbonate. The reaction mixture was refluxed until all of the aldehyde reacted in about ½ hour. The residue obtained after evaporation of the solvent (800 ml) was treated with ether, and the ether extract was washed with water until the pH of the water reached 7. The organic layer was dried over anhydrous magnesium sulphate, treated with activated charcoal, and filtered. Then, the ether solvent was evaporated. The residue was recrystallized from ethanol. Crystalline 4-diethylamino-2-hydroxybenzaldehyde N,N-diphenylhydrazone was filtered off and washed with cold ethanol. The yield was 85 g (78.8%). The melting point was found to be 95.5–96.5° C. (recrystallized from a mixture of 2-propanol and ether in a 10:1 ratio by volume). The 1H NMR spectrum (100 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 11.55 (s, 1H, OH); 7.55–6.95 (m, 11H, CH═N, Ph); 6.7 (d, J=8.6 Hz; 1H, 6-H of 1,2,4-subst. Ph); 6.23 (s, 1H, 3-H of 1,2,4-subst. Ph); 6.1 (d, J=8.6 Hz, 1H, 5-H of 1,2,4-subst. Ph); 3.3 (q, J=8.0 Hz, 4H, CH2); 1.1 (t, J=8.0 Hz, 6H, CH3). An elemental analysis yielded the following results in weight percent C, 76.68; H, 7.75; and N, 11.45; which compared with calculated values for C23H25N3O in weight percent of C, 76.85; H, 7.01; and N, 11.69.

reactant | N,N-diphenylhydrazine hydrochloride | 0.36 mol, 79.5 g | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
reactant | 4-diethylamino-2-hydroxybenzaldehyde | 0.3 mol, 58.0 g | C(C)N(C1=CC(=C(C=O)C=C1)O)CC | C11H15NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-Diethylamino-2-hydroxybenzaldehyde N,N-diphenylhydrazone | C1(=CC=CC=C1)N(N=CC1=C(C=C(C=C1)N(CC)CC)O)C1=CC=CC=C1 | C23H25N3O
